US04891447
Acetic anhydride (1.4 mL, 0.014 mol), 3-(3-methoxy-3-methylbut-1-yl)-5-methylcyclohexan-1-ol (2.0 g, 0.0093 mol), toluene (3.0 mL) and sodium acetate (0.05 g) were combined and heated at reflux for 16 hours. Workup provided 1-acetoxy-3-(3-methoxy-3-methylbut-1-yl)-5-methylcyclohexane, bp0.5 175°-177° C. (1.61 g) as a mixture of diasteroisomers (ratio 92.3:3.2:4.5); NMR(CDCl3)δ0.6(q,1H), 0.9(d,3H), 1.0-1.3(m,3H), 1.2(s,6H), 1.4-1.6(m,4H), 1.6-2.0(m,4H), 2.1(s,3H), 3.2(s,3H), 5.1(m,1H); IR(neat) 2960, 2925, 1740, 1460, 1380, 1250, 1085, 1015 cm-1 ; MS(m/e) 43, 73, 93, 108, 149, 164, 181, 241, 242.

reactant | Acetic anhydride | 0.014 mol, 1.4 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | 3-(3-methoxy-3-methylbut-1-yl)-5-methylcyclohexan-1-ol | 0.0093 mol, 2.0 g | COC(CCC1CC(CC(C1)C)O)(C)C | C13H26O2
reactant | sodium acetate | 0.05 g | C(C)(=O)[O-].[Na+]
solvent | toluene | 3.0 mL | C1(=CC=CC=C1)C | C7H8
product | 1-acetoxy-3-(3-methoxy-3-methylbut-1-yl)-5-methylcyclohexane | C(C)(=O)OC1CC(CC(C1)C)CCC(C)(C)OC | C15H28O3
